US08470847B2
3.2: (±)-2-Amino-1-ethyl-7-(3-hydroxy-4-methoxy-3-methylbut-1-yn-1-yl)-N-methyl-4-oxo-1,4-dihydro-1,8-naphthyridine-3-carboxamide
A suspension of 3 g (10.69 mmol) of 2-amino-7-chloro-1-ethyl-N-methyl-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxamide in 20 ml of a DMF/Et3N mixture (V/V; 1/1) is placed in an 80 ml microwave tube. This suspension is sparged with argon for 10 minutes and then 1.83 g of (±)-1-methoxy-2-methyl-3-butyn-2-ol (16.03 mmol), 0.081 g of CuI (0.43 mmol) and 0.375 g of bis(triphenylphosphine) palladium(II)dichloride (0.53 mmol) are successively added.

reactant | 2-amino-7-chloro-1-ethyl-N-methyl-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxamide | 10.69 mmol, 3 g | NC=1N(C2=NC(=CC=C2C(C1C(=O)NC)=O)Cl)CC | C12H13ClN4O2
reactant | (±)-1-methoxy-2-methyl-3-butyn-2-ol | 16.03 mmol, 1.83 g | COCC(C#C)(O)C | C6H10O2
solvent | DMF Et3N | 20 ml | CN(C)C=O.CCN(CC)CC
catalyst | CuI | 0.43 mmol, 0.081 g | [Cu]I
catalyst | bis(triphenylphosphine) palladium(II)dichloride | 0.53 mmol, 0.375 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | (±)-2-Amino-1-ethyl-7-(3-hydroxy-4-methoxy-3-methylbut-1-yn-1-yl)-N-methyl-4-oxo-1,4-dihydro-1,8-naphthyridine-3-carboxamide | NC=1N(C2=NC(=CC=C2C(C1C(=O)NC)=O)C#CC(COC)(C)O)CC | C18H22N4O4
